US04371720
A mixture of 5.0 g. (11.73 mmole) of trans-3-(2,4-dibenzyloxyphenyl)-4-(2-propenyl)cyclohexanone, 6.5 ml. (117 mmole) of ethylene glycol and 223 mg. (1.17 mmole) of p-toluenesulfonic acid in 50 ml. of benzene was heated at reflux for 1.5 hours. Water was removed via a soxhlet extractor filled with molecular sieves. The reaction was cooled and added to 500 ml. saturated sodium bicarbonate and 300 ml. ether. The ether phase was separated, dried over magnesium sulfate and evaporated. Trituration with diisopropyl ether-hexane gave 5.31 g. (96%) of the title compound.

reactant | trans-3-(2,4-dibenzyloxyphenyl)-4-(2-propenyl)cyclohexanone | 11.73 mmole | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)[C@@H]1CC(CC[C@H]1CC=C)=O | C29H30O3
reactant | ethylene glycol | 117 mmole | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 1.17 mmole | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | diisopropyl ether hexane | C(C)(C)OC(C)C.CCCCCC | InChI=1S/C6H14O.C6H14/c1-5(2)7-6(3)4;1-3-5-6-4-2/h5-6H,1-4H3;3-6H2,1-2H3
